US06897231B2
B. N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-2-methoxyacetamide
Hydrolysis was performed by stirring 2-methoxy-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)acetamide (0.141 g, 0.207mmol) in 4 mL of 4.0 N commercial solution of HCl in dioxane and 2 mL of 6.ON aqueous HCl, at room temperature for 18 hours. The title compound was purified by preparative HPLC (15-80% acetonitrile in water) (0.033 g, 46% yield) 1H NMR (DMSO-d6) δ 13.5 (br s, 1H), 10.0 (s, 1H), 8.7 (s, 1H), 8.4 (br s, 1H), 8.3 (s, 1H), 8.1 (d, 1H), 7.8 (d, 1H), 7.7 (d, 2H), 7.5 (dd, 1H), 4.06 (s, 2H), 3.4 (s, 3H); ES-MS (mlz) 349 [M+1]+.

reactant | 2-methoxy-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)acetamide | 0.207mmol, 0.141 g | COCC(=O)NC1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1 | C42H38N6O3
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | HCl | 2 mL | Cl | ClH
product | N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-2-methoxyacetamide | 46% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(COC)=O | C18H16N6O2
